US07842701B2
3-amino-5-(4-methoxybenzyl)-2-(2-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 4-chloro-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-3-carbonitrile (500 mg), 2-methoxyphenylhydrazine hydrochloride (321 mg), triethylamine (627 μl) and ethanol (5 ml) was stirred at room temperature for 1 hour and at 90° C. for 2 hours. After cooling, water was added to the mixture and the precipitated solid was collected by filtration, washed with water-ethanol and dried to obtain the target compound (421 mg).

reactant | 4-chloro-1-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 500 mg | ClC1=C(C(N(C2=CC=CC=C12)CC1=CC=C(C=C1)OC)=O)C#N | C18H13ClN2O2
reactant | 2-methoxyphenylhydrazine hydrochloride | 321 mg | Cl.COC1=C(C=CC=C1)NN
reactant | triethylamine | 627 μl | C(C)N(CC)CC | C6H15N
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-amino-5-(4-methoxybenzyl)-2-(2-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 421 mg | NC=1N(N=C2C1C(N(C=1C=CC=CC21)CC2=CC=C(C=C2)OC)=O)C2=C(C=CC=C2)OC | C25H22N4O3
